US05877342
Preparation of allyl 4-[4-(1-adamantyl)-3-methoxyethoxymethoxythiobenzamido]benzoate
2.9 g (5.6 mmol) of allyl 4-[4-(1-adamantyl)-3-methoxyethoxymethoxybenzamido]benzoate and 30 ml of toluene were introduced into a round-bottomed flask and 1.14 g (2.8 mmol) of Lawesson's reagent were added. The reaction medium was heated at reflux for three hours and was then evaporated to dryness. The residue obtained was taken up in water and dichloromethane and the organic phase was separated out after settling had taken place, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a column of silica, eluted with a mixture of heptane and ethyl acetate (80/20). After evaporation of the solvents, 1 g (33%) of the expected allylic ester was collected in the form of an orange-coloured oil.

reactant | allyl 4-[4-(1-adamantyl)-3-methoxyethoxymethoxybenzamido]benzoate | 5.6 mmol, 2.9 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=O)NC3=CC=C(C(=O)OCC=C)C=C3)C=C2)OCOCCOC | C31H37NO6
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
reactant | Lawesson's reagent | 2.8 mmol, 1.14 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | water | O | H2O
product | allyl 4-[4-(1-adamantyl)-3-methoxyethoxymethoxythiobenzamido]benzoate | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=S)NC3=CC=C(C(=O)OCC=C)C=C3)C=C2)OCOCCOC | C31H37NO5S
